US05470882
a) 2-(2-nitro-4-trifluoromethylphenoxy)-4-(1,1-dimethylpropyl)benzene
A mixture of 4-(1,1-dimethylpropyl)phenol (821 mg, 0.005 mol), 4-bromo-3-nitrobenzotrifluoride (1.35g, 0.005 mol) potassium carbonate (1.38g, 0.010 mol) and cuprous oxide (143 mg, 0.001 mol) in dimethylformamide (25 ml) was stirred under argon at 150° C. for sixteen hours. The solvent was evaporated and the residue partitioned between ethyl acetate and water, the layers separated, dried over MgSO4 and evaporated. The crude product flash chromatographed (silica gel, ethyl acetate/hexane) to give the title compound as a yellow oil. 1H NMR (250 MHz, CDCl3) ∂8.20 (d, 1H), 7.70 (dd, 1H), 7.45 (m, 2H), 7.05 (m, 3H), 1.65 (q, 3H), 1.30 (s, 6H), 0.65 (t, 2H).

reactant | 4-(1,1-dimethylpropyl)phenol | 0.005 mol, 821 mg | CC(CC)(C)C1=CC=C(C=C1)O | C11H16O
reactant | 4-bromo-3-nitrobenzotrifluoride | 0.005 mol, 1.35g | BrC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(2-nitro-4-trifluoromethylphenoxy)-4-(1,1-dimethylpropyl)benzene | [N+](=O)([O-])C1=C(OC2=CC=CC(=C2)C(CC)(C)C)C=CC(=C1)C(F)(F)F | C18H18F3NO3
